US05506228
The reaction of 4.07(0.0193 mol) g of 1-chloro-1-[(4-methylphenyl-)hydrazono]-2-propanone, 3.43 g of 4-chlorothiophenol and 3.36 ml of triethylamine in 40 ml of ethanol as in Example 11 yielded 5.55 g of 1-[(4-chlorophenyl)thio]-1-[(4-methylphenyl)hydrazono]-2-propanone, mp 133°-135.5° C.

reactant | 1-chloro-1-[(4-methylphenyl-)hydrazono]-2-propanone | ClC(C(C)=O)=NNC1=CC=C(C=C1)C | C10H11ClN2O
reactant | 4-chlorothiophenol | 3.43 g | ClC1=CC=C(C=C1)S | C6H5ClS
reactant | triethylamine | 3.36 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 1-[(4-chlorophenyl)thio]-1-[(4-methylphenyl)hydrazono]-2-propanone | 5.55 g | ClC1=CC=C(C=C1)SC(C(C)=O)=NNC1=CC=C(C=C1)C | C16H15ClN2OS
